CMOS inverter tran analysis
.include my_nmos.lib
.include my_pmos.lib
** Circuit Description **
VDD 2 0 DC 1.8V
Vin 1 0 PULSE(0 1.8 0 5p 5p 45p 100p)
#M1 3 1 2 2 pmos_part1_4 W=20u L=180n
#M2 3 1 0 0 nmos_part1_2 W=10u L=180n
M1 3 1 2 2 pmos_part1_6 W=20u L=180n AD=9p AS=9p PD=40.9u PS=40.9u
M2 3 1 0 0 nmos_part1_6 W=10u L=180n AD=4.5p AS=4.5p PD=20.9u PS=20.9u
** Analysis Requests **
.TRAN 1p 200p
*delay defined from 50% of input to 50% of output
.MEAS TRAN Tphl TRIG when v(1) =0.9 cross=1 TARG when v(3)=0.9 cross=1
.MEAS TRAN Tplh TRIG when v(1) =0.9 cross=2 TARG when v(3)=0.9 cross=2
.END



