CMOS inverter tran analysis
.include ee214b_hspice.sp
** Circuit Description **
.param mult =1
.subckt inv 1 2 3
M1 3 1 2 2 pch W=20u L=180n m={mult}
M2 3 1 0 0 nch W=10u L=180n m={mult}
.ends inv
VDD 2 0 DC 1.8V
Vin 1 0 PULSE(0 1.8 0 10p 10p 1n 2n)
x1 1 2 3 inv params: mult=1
x2 3 2 4 inv params: mult={4**1}
x3 4 2 5 inv params: mult={4**2}
x4 5 2 6 inv params: mult={4**3}
x5 6 2 7 inv params: mult={4**4}
** Analysis Requests **
.TRAN 5p 4n
*delay defined from 50% of input to 50% of output
.MEAS TRAN Tphl TRIG when v(4) =0.9 cross=1 TARG when v(5)=0.9 cross=1
.MEAS TRAN Tplh TRIG when v(4) =0.9 cross=2 TARG when v(5)=0.9 cross=2
.END

`

